US07557103B2
Preparation of 8-(1-ethyl-propyl)-3-(3,5-dimethyl-benzo[b]thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (Method A)
A mixture of 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.145 mmol), 3,5-dimethyl-benzothiophene-2-boronic acid (0.29 mmol), Pd2 dba3 (0.0072 mmol), triphenylphosphine (0.029 mmol), and barium hydroxide (0.435 mmol) in previously degassed mixture of DME/water [(2:1), 0.5 ml] is added to a pressure tube with a stirring bar. The mixture is degassed for 30 min. After heating for 16 h at 90° C., the reaction mixture is cooled, diluted with diethylether and washed with saturated aqueous ammonium chloride solution. The organic layer is dried over anhydrous magnesium sulfate, filtered, and the solvent is removed in vacuo. The residue is purified by silica gel column chromatography using mixtures of hexane-ethyl acetate as eluent to give the tile compound (90%). 1H-NMR (CDCl3): 7.68 (m, 1H); 7.40 (m, 1H); 7.15 (m, 1H); 6.62 (s, 1H); 3.25 (m, 1H); 2.45 (s, 3H); 2.43 (s, 3H); 2.42 (s, 3H); 2.19 (s, 3H); 1.73 (m, 4H); 0.74 (t, 6H) ppm. MS/ES+=378 (M+1).

reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.145 mmol | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
reactant | 3,5-dimethyl-benzothiophene-2-boronic acid | 0.29 mmol | CC1=C(SC2=C1C=C(C=C2)C)B(O)O | C10H11BO2S
reactant | triphenylphosphine | 0.029 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | barium hydroxide | 0.435 mmol | [OH-].[Ba+2].[OH-]
catalyst | Pd2 dba3 | 0.0072 mmol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DME water | 0.5 ml | COCCOC.O
product | 8-(1-ethyl-propyl)-3-(3,5-dimethyl-benzo[b]thiophen-2-yl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 90% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(C1=C(S2)C=CC(=C1)C)C | C23H27N3S
